US07129232B2
Hydrazine monohydrate (1.46 ml) was added to a solution of 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]acetamide (5.42 g) in ethanol (108 ml) and tetrahydrofuran (54 ml) at room temperature, and the mixture was stirred at 70° C. for 2 hours. The reaction mixture was cooled to 0° C., and the insoluble materials were removed by filtration. The filtrate was concentrated in vacuo. The residue was triturated with diisopropyl ether, collected by filtration and dried in vacuo to give 2-amino-N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]acetamide (3.37 g) as a solid. This product was used in the next step without further purification.

reactant | Hydrazine monohydrate | 1.46 ml | O.NN
reactant | 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]acetamide | 5.42 g | O=C1N(C(C2=CC=CC=C12)=O)CC(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C33H27N5O3
solvent | ethanol | 108 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 54 ml | O1CCCC1 | C4H8O
product | 2-amino-N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]acetamide | 3.37 g | NCC(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C25H25N5O
